US09212187B2
Synthesis of 6-{3-[N-(3-hydroxymethylbenzyl)-N-(2-pyridin-3-ylethyl)amino]propoxy}-1-methyl-1H-quinolin-2-one dihydrochloride
Sodium borohydride (16.5 mg) was added to a THF solution (4 ml) of 3-{[N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(2-pyridin-3-ylethyl)amino]methyl}benzoic acid methyl ester (192 mg). Methanol (1 ml) was added to the mixture and stirred for 1.5 hour while heated under reflux. The reaction liquid was cooled to room temperature. Water was added to the reaction mixture, followed by extraction with dichloromethane. The organic layer was dried over anhydrous sodium sulfate. The filtrate was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate: methanol=10:1→4:1). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride in ethyl acetate solution(0.082 ml) was added to a ethyl acetate solution (1 ml) of the residue, and the liquid was stirred at room temperature. The precipitated insoluble matter was separated, washed with ether, and dried to give the title compound(53.4 mg) as a white powder.

reactant | Sodium borohydride | 16.5 mg | [BH4-].[Na+]
reactant | THF | 4 ml | C1CCOC1 | C4H8O
reactant | 3-{[N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(2-pyridin-3-ylethyl)amino]methyl}benzoic acid methyl ester | 192 mg | COC(C1=CC(=CC=C1)CN(CCC=1C=NC=CC1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O)=O | C29H31N3O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 0.082 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | Methanol | 1 ml | CO | CH4O
product | 6-{3-[N-(3-hydroxymethylbenzyl)-N-(2-pyridin-3-ylethyl)amino]propoxy}-1-methyl-1H-quinolin-2-one dihydrochloride | 53.4 mg | Cl.Cl.OCC=1C=C(CN(CCC=2C=NC=CC2)CCCOC=2C=C3C=CC(N(C3=CC2)C)=O)C=CC1 | InChI=1S/C28H31N3O3.2ClH/c1-30-27-10-9-26(18-25(27)8-11-28(30)33)34-16-4-14-31(15-12-22-7-3-13-29-19-22)20-23-5-2-6-24(17-23)21-32;;/h2-3,5-11,13,17-19,32H,4,12,14-16,20-21H2,1H3;2*1H
